US05059608
To a solution of (+)-1-methyl-1-phenyl-1,2,3,4-tetrahydroisoquinoline (1.0 g) in N,N-dimethylformamide (10 ml) was added sodium hydride (0.19 g) in ice-bath with stirring. After stirring for 30 minutes at room temperature, to the mixture was added methyl iodide (0.31 ml). And after stirring for an hour at room temperature, the mixture was poured into ice-water and extracted with ethyl acetate. The organic layer was washed with water, sodium chloride aqueous solution, dried over magnesium sulfate and evaporated in vacuo to give (+)-1,2-dimethyl-1-phenyl-1,2,3,4-tetrahydroisoquinoline (0.6 g).

reactant | (+)-1-methyl-1-phenyl-1,2,3,4-tetrahydroisoquinoline | 1.0 g | CC1(NCCC2=CC=CC=C12)C1=CC=CC=C1 | C16H17N
reactant | sodium hydride | 0.19 g | [H-].[Na+]
reactant | methyl iodide | 0.31 ml | CI | CH3I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (+)-1,2-dimethyl-1-phenyl-1,2,3,4-tetrahydroisoquinoline | 0.6 g | CC1(N(CCC2=CC=CC=C12)C)C1=CC=CC=C1 | C17H19N
